US09403798B2
tert-Butyl 4-(6-methyl-4-oxo-5-{[5-(trifluoromethyl)thiophen-2-yl]methyl}-4,5-dihydro-1,3,5-triazin-2-yl)piperazine-1-carboxylate
6-Methyl-4-(methylthio)-1-{[5-(trifluoromethyl)thiophen-2-yl]methyl}-1,3,5-triazin-2(1H)-one (309 mg, 0.962 mmol) synthesized in Reference Synthesis Example 292 and tert-butyl piperazine-1-carboxylate (269 mg, 1.44 mmol) were used to obtain the title compound (429 mg, yield 97%) by synthesis in a similar manner to Reference Synthesis Example 348.

reactant | 6-Methyl-4-(methylthio)-1-{[5-(trifluoromethyl)thiophen-2-yl]methyl}-1,3,5-triazin-2(1H)-one | 0.962 mmol, 309 mg | CC1=NC(=NC(N1CC=1SC(=CC1)C(F)(F)F)=O)SC | C11H10F3N3OS2
reactant | tert-butyl piperazine-1-carboxylate | 1.44 mmol, 269 mg | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
product | tert-Butyl 4-(6-methyl-4-oxo-5-{[5-(trifluoromethyl)thiophen-2-yl]methyl}-4,5-dihydro-1,3,5-triazin-2-yl)piperazine-1-carboxylate | 429 mg, yield 97% | CC=1N(C(N=C(N1)N1CCN(CC1)C(=O)OC(C)(C)C)=O)CC=1SC(=CC1)C(F)(F)F | C19H24F3N5O3S
